US08426433B2
5. 3-chloro-N-(5-(N-methyl-N-phenyl sulfamoyl)-2-(methylamino)phenyl)propanamide
To a solution of 3-amino-N-methyl-4-(methylamino)-N-phenylbenzene sulfonamide (5.4 g, 0.018 mol) and triethylamine (1.81 g, 0.018 mol) in dimethylformamide (16 ml) being cooled on ice (˜5° C.), chloropropionyl chloride (2.32 g, 0.018 mol) was added. The reaction was stirred at room temperature for 5 h. Thereupon, water (14 ml) and acetonitrile (5 ml) were added for 5 h. The precipitate formed was filtered. The yield of 3-chloro-N-(5-(N-methyl-N-phenylsulfamoyl)-2-(methylamino)phenyl)propanamide was 3.1 g (45%).

reactant | 3-amino-N-methyl-4-(methylamino)-N-phenylbenzene sulfonamide | 0.018 mol, 5.4 g | NC=1C=C(C=CC1NC)S(=O)(=O)N(C1=CC=CC=C1)C | C14H17N3O2S
reactant | triethylamine | 0.018 mol, 1.81 g | C(C)N(CC)CC | C6H15N
reactant | chloropropionyl chloride | 0.018 mol, 2.32 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | water | 14 ml | O | H2O
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 3-chloro-N-(5-(N-methyl-N-phenyl sulfamoyl)-2-(methylamino)phenyl)propanamide | ClCCC(=O)NC1=C(C=CC(=C1)S(N(C1=CC=CC=C1)C)(=O)=O)NC | C17H20ClN3O3S
